US07495007B2
Preparation of racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a mixture of racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (120 mg, 0.19 mmol) in methanol (4 mL) was added a solution of NaOH (24 mg, 0.6 mmol) in water (2 mL). The mixture was heated at 70° C. for 3 h, evaporated to remove most of methanol, cooled to room temperature, and acidified to “pH” 1 with aqueous HCl solution. The precipitate was collected and dried to give product as a white solid (75 mg). m/z (M+H)+: 615

reactant | racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.19 mmol, 120 mg | BrC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)F)C)C(NC1=CC(=CC=C12)Cl)=O)OC(C)(C)C(=O)OCC | C31H29BrClFN2O5
reactant | NaOH | 0.6 mmol, 24 mg | [OH-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 75 mg | BrC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)F)C)C(NC1=CC(=CC=C12)Cl)=O)OC(C)(C)C(=O)O | C29H25BrClFN2O5
